US04348398
(c) 6-Azidoacetyl-2-ethoxy-4-methoxyquinoline C
To a solution of 4.91 gm. (20 mmoles) of B in 270 ml. of acetic acid and 75 ml. of ether, cooled to 10° C., was added gaseous HBr in excess. A solution of 3.4 gm. (21 mmoles) of bromine in 75 ml. acetic acid was added over 75 min. The resulting mixture was stirred for 1 hour at 22° C., evaporated and the residue stirred with 150 ml. of 10% NaHCO3. The aqueous suspension was extracted with 3×200 mls. of CHCl3 and after drying and evaporation of the organic extracts there was obtained 6.57 gm. of crude 6-bromo-acetyl-2-ethoxy-4-methoxy quinoline. This material was dissolved in 150 ml. of dimethylformamide and to the solution was added a solution of 1.95 gm. (30 mmoles) of sodium azide in 35 ml. of H2O. The solution temperature rose from 22° C. to 35° C. and after 105 minutes had fallen back to 25° C. The mixture was diluted with 1500 ml. of water and extracted with 3×300 ml. of CHCl3. After washing the organic extracts with water (3×200 ml.), drying and evaporation, there was obtained 5.95 gm. of crude solid. This was dissolved in 75 ml. of ethyl acetate, 50 ml. of hexane was added, and after refrigeration and filtration, there was obtained 4.88 gm. (85%) of c, m.p. 129°-132° C.

reactant | HBr | Br | BrH
reactant | bromine | 21 mmoles | BrBr | Br2
reactant | 6-bromo-acetyl-2-ethoxy-4-methoxy quinoline | BrC=1C=C2C(=C(C(=NC2=CC1)OCC)C(C)=O)OC | C14H14BrNO3
reactant | sodium azide | 30 mmoles | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | H2O | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 6-Azidoacetyl-2-ethoxy-4-methoxyquinoline | N(=[N+]=[N-])CC(=O)C=1C=C2C(=CC(=NC2=CC1)OCC)OC | C14H14N4O3
